US07612064B2
4-Bromo-1-(p-toluenesulfonyl)-2-(3,4,5-trimethoxyphenyl)-pyrrole
To a stirred solution of 3-(p-toluenesulfonylamino)-1-propinyl 3,4,5-trimethoxyphenyl ketone (4.03 g, 10.0 mmol) in CH2Cl2 (40 ml), a 33% HBr/acetic acid solution (2.63 ml, 15.0 mmol) is added dropwise at 4° C. within 10 min. The reaction mixture is stirred for 1 h at 40° C. and extracted with CH2Cl2 and aqueous 1 N HCl solution. The organic layer is dried over MgSO4, the solvents evaporated, and the residue chromatographed on SiO2 with gradients of hexane/ethyl acetate (4:1 to 3:1) to yield the title compound as a greyish solid. 1H-NMR (300 MHz, CDCl3): 7.49 (d, J=2.0 Hz, 1H); 7.3-7.2; 7.2-7.1 (2m, 4H); 6.38 (s, 2H); 6.17 (d, J=2.0 Hz, 1H); 3.92 (s, 3H); 3.77 (s, 6H); 2.38 (s, 3H).

reactant | 3-(p-toluenesulfonylamino)-1-propinyl 3,4,5-trimethoxyphenyl ketone | 10.0 mmol, 4.03 g | COC=1C=C(C=C(C1OC)OC)C(=O)C#CCNS(=O)(=O)C1=CC=C(C=C1)C | C20H21NO6S
reactant | HBr acetic acid | 15.0 mmol, 2.63 ml | Br.C(C)(=O)O
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | 4-Bromo-1-(p-toluenesulfonyl)-2-(3,4,5-trimethoxyphenyl)-pyrrole | BrC=1C=C(N(C1)S(=O)(=O)C1=CC=C(C=C1)C)C1=CC(=C(C(=C1)OC)OC)OC | C20H20BrNO5S
